US07678803B2
A solution of 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carbonitrile (0.15 g, 0.44 mmol) in THF (2 mL) and H2O (2 mL) is treated with concentrated HCl (10 mL). The reaction mixture is microwaved at 150° C. for 1.5 h. The reaction mixture is then treated with 5 M NaOH until pH=8. The crystals formed are collected by vacuum filtration, and dried to afford 0.07 g (44%) of 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carboxylic acid. LC/MS m/z=364 [M+H]+, RT=2.12 min.

reactant | 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carbonitrile | 0.44 mmol, 0.15 g | NC1=NC=C(C2=CC(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)C#N | C21H20N4O
reactant | HCl | 10 mL | Cl | ClH
reactant | NaOH | 5 M | [OH-].[Na+]
reactant | H2O | 2 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-amino-6-(3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-isoquinoline-4-carboxylic acid | 0.07 g, 44% | NC1=NC=C(C2=CC(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)C(=O)O | C21H21N3O3
